US03931247
α-Methyl-5-(p-nitrophenyl)furfuryl Alcohol
Sodium borohydride (9.0 g, 0.34 mole) was added in portions to a stirred mixture of 55 g (0.24 mole) of methyl 5-(p-nitrophenyl)-2-furyl ketone in 700 ml of methanol at 20°-25° over 45 minutes. The mixture was stirred at ambient temperature for 4 hours and allowed to stand overnight. Some insoluble material was removed by filtration and discarded. The filtrate was poured into a mixture of ice and water (3 liters) and made acidific with 5% aqueous HCl. The brown oil which was deposited solidified on standing and was collected by filtration to give 56 g (100%) of title compound. Recrystallization from a cyclohexane-benzene mixture gave an analytical sample, m.p. 69.5°-70.5°.

reactant | Sodium borohydride | 0.34 mole, 9.0 g | [BH4-].[Na+]
reactant | methyl 5-(p-nitrophenyl)-2-furyl ketone | 0.24 mole, 55 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(=O)C | C12H9NO4
solvent | methanol | 700 ml | CO | CH4O
product | α-Methyl-5-(p-nitrophenyl)furfuryl Alcohol | 56 g, 100% | CC(C1=CC=C(O1)C1=CC=C(C=C1)[N+](=O)[O-])O | C12H11NO4
